US07071217B2
Preparation of N-(4-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]amino}phenyl)methanesulfonamide
The title compound was prepared analogous to Example 5 from 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one (0.164 g, 1.02 mmol) and N-(4-aminophenyl)-methanesulfonamide [53250-82-1, 0.186 g, 1.0 mmol] to provide a yellow solid (0.249 g). 1H NMR (DMSO) 10.67 (d, 1H); 10.45 (s, 1H); 9.56 (s, 1H); 8.50 (d, 1H); 7.52 (d, 1H); 7.35 (d, 2H); 7.18 (d, 2H); 6.95 (m, 1H); 6.89 (m, 1H); 6.80 (m, 1H); 2.92 (s, 3H). MP>250. APCI (−ve) 328. Analytical Calculated for C16H15N3O3S: C, 58.35; H, 4.59; N, 12.76; S, 9.73. Found: C, 58.40; H, 4.63; N, 12.75; S, 9.63.

reactant | 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one | 1.02 mmol, 0.164 g | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | N-(4-aminophenyl)-methanesulfonamide | 1.0 mmol, 0.186 g | NC1=CC=C(C=C1)NS(=O)(=O)C | C7H10N2O2S
product | N-(4-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]amino}phenyl)methanesulfonamide | O=C\1NC2=CC=CC=C2/C1=C/NC1=CC=C(C=C1)NS(=O)(=O)C | C16H15N3O3S
